US07399759B2
3-[(6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl)methoxy]propionic acid
A mixture of tert-butyl 3-[(6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl)methoxy]propanoate (2.80 g, 6.8 mmol) and trifluoroacetic acid (15 ml) was stirred at 0° C. for 3 hrs. The mixture was concentrated under reduced pressure, and the residue was crystallized from ethyl acetate-hexane to give the titled compound (1.78 g, 74%), which was recrystallized from ethanol to give prisms (1.66 g, 69%)

reactant | tert-butyl 3-[(6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl)methoxy]propanoate | 6.8 mmol, 2.80 g | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)COCCC(=O)OC(C)(C)C | C21H22N2O4S
reactant | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-[(6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl)methoxy]propionic acid | 1.78 g, 74% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)COCCC(=O)O | C17H14N2O4S
